US03998834
A mixture of 100 parts of 4-[N-(3-methoxyphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxamide, 49.5 parts of potassium hydroxide and 974 parts of 1,2-ethanediol is stirred and refluxed for 24 hours. After cooling, the reaction mixture is poured onto 1500 parts of water and acidified with a concentrated hydrochloric acid solution. The whole is strongly alkalized with a sodium hydroxide solution and the layers are separated. The aqueous phase is concentrated, whereupon the product is separated as an oil. The supernatant aqueous phase is decanted and the residual oil is taken up in a sodium hydroxide solution. The precipitated product is filtered off and dissolved in water. The solution is acidified with acetic acid till pH = 6. The precipitated product is filtered off and warmed in ethanol. It is filtered off again, washed with ethanol and 2,2'-oxybispropane and dissolved in boiling N,N-dimethylformamide. The solution is filtered and the product is allowed to crystallized from the filtrate. It is filtered off, washed successively with N,N-dimethylformamide, water and ethanol, and dried, yielding 4-[N-(3-methoxyphenyl)amino]- 1-(phenylmethyl)-4-piperidinecarboxylic acid; mp. 211.1° C.

reactant | 4-[N-(3-methoxyphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxamide | COC=1C=C(C=CC1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)N | C20H25N3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | 1,2-ethanediol | C(CO)O | C2H6O2
product | 4-[N-(3-methoxyphenyl)amino]- 1-(phenylmethyl)-4-piperidinecarboxylic acid | COC=1C=C(C=CC1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)O | C20H24N2O3
